US05064564
To a solution of 559 mg (2.0 mmol) of (2S,4R)-4-hydroxy-2-(4-methoxyphenyl)decanenitrile in 5 ml of pyridine were added, with cooling with ice, a solution of 774 mg (4.1 mmol) of p-toluenesulfonyl chloride (TsCl) in 3 ml of pyridine and 24 mg (0.2 mmol) of 4-(N,N-dimethylamino)pyridine (DMAP). This mixture was stirred at room temperature for 3 days. The pH of the reaction mixture was adjusted to 7 with diluted hydrochloric acid, and this reaction mixture was subjected to extraction with ether (150 ml). The resulting ether solution was washed with diluted hydrochloric acid and saturated sodium chloride aqueous solution, and then concentrated. The residue was separated and purified by column chromatography (Kieselgel 60, hexane/ethyl acetate=4/1), thereby obtaining 550 mg (yield 63%) of (2S,4R)-4-p-toluenesulfonyloxy-2-(4-methoxyphenyl)-decanenitrile.

reactant | (2S,4R)-4-hydroxy-2-(4-methoxyphenyl)decanenitrile | 2.0 mmol, 559 mg | O[C@@H](C[C@H](C#N)C1=CC=C(C=C1)OC)CCCCCC | C17H25NO2
reactant | p-toluenesulfonyl chloride | 4.1 mmol, 774 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-(N,N-dimethylamino)pyridine | 0.2 mmol, 24 mg | CN(C)C1=CC=NC=C1 | C7H10N2
product | (2S,4R)-4-p-toluenesulfonyloxy-2-(4-methoxyphenyl)-decanenitrile | 550 mg, yield 63% | C1(=CC=C(C=C1)S(=O)(=O)O[C@@H](C[C@H](C#N)C1=CC=C(C=C1)OC)CCCCCC)C | C24H31NO4S
